US05658923
Triethylamine 3.20 ml (23.0 mill) was added to a methylene chloride 40 ml solution of (IS)-1,8,8-trimethyl-3-azabicyclo[3.2.1]octane hydrochloride 1.74 g (9.18 mill) and 3-pyridylacetic acid hydrochloride 1.76 g (10.1 mill) and stirred at 0° C. for 30 min. WSC 2.47 g (12.9 mill) was added therein, then temperature of the reaction mixture was gradually changed to room temperature and stirred for 46 hours. The reaction mixture was washed with saturated aqueous sodium chloride solution and dried by anhydrous sodium sulfate. After the drying agent was removed by filtration, the filtrate was concentrated in vacuo to obtain crude (IS)-3-(3-pyridylacetyl)-1,8,8-trimethyl-3-azabicyclo[3.2.1]octane. The concentrate was added to THF 60 ml solution of lithium aluminum hydride 0.77 g (20.3 mill) and refluxed under heating for 3 hours. The reaction mixture was cooled, then water was added thereto and the insoluble material was removed by filtration. The filtrate was concentrate in vacuo. The thus obtained residue was purified by means of silica gel column chromatography (Wako gel, C200, chloroform:acetone=10:1-5:1) to obtain the product as yellowish oily material.

reactant | Triethylamine | 3.20 ml | C(C)N(CC)CC | C6H15N
reactant | (IS)-1,8,8-trimethyl-3-azabicyclo[3.2.1]octane hydrochloride | 1.74 g | Cl.C[C@]12CNCC(CC1)C2(C)C
reactant | 3-pyridylacetic acid hydrochloride | 1.76 g | Cl.N1=CC(=CC=C1)CC(=O)O
reactant | WSC | 2.47 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | (IS)-3-(3-pyridylacetyl)-1,8,8-trimethyl-3-azabicyclo[3.2.1]octane | N1=CC(=CC=C1)CC(=O)N1C[C@]2(CCC(C1)C2(C)C)C | C17H24N2O
